US07232821B2
5-{2-[5-Chloro-2-(4-chlorobenzyloxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid
5-{2-[5-Chloro-2-(4-chlorobenzyloxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester (90 mg) was hydrolysed in methanol (3 mL) and 2N sodium hydroxide (2 mL) at 60° C. with stirring for 2 hrs. The reaction mixture was then reduced down to ˜1 mL, diluted with water (10 mL) and treated with a few drops of glacial acetic acid to make the solution ˜pH5. The product was then extracted twice with dichloromethane (10 mL) dried (magnesium sulphate), and evaporated to give the title compound (75 mg).

reactant | 5-{2-[5-Chloro-2-(4-chlorobenzyloxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester | 90 mg | C(C)OC(C1=CN=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=C(C=C1)Cl)=O | C26H23Cl2NO3
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 5-{2-[5-Chloro-2-(4-chlorobenzyloxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid | 75 mg | ClC=1C=CC(=C(C1)C1=C(CCC1)C=1C=NC=C(C(=O)O)C1)OCC1=CC=C(C=C1)Cl | C24H19Cl2NO3
